US04207327
4-Anilino-1,2-diethylpyrazolidine.
To a stirred suspension of 7.9 g. (0.2 mole) of sodamide in 100 ml. of dry toluene was added 28.8 g. (0.2 mole) of 1,2-diethyl-4-pyrazolidinol at a rate so that a pot temperature of 30°-35° C. was maintained. After stirring 2.0 hrs. at room temperature, the solution was added dropwise to a solution of 38.0 g. (0.2 mole) of p-toluenesulfonyl chloride in 200 ml. of dry toluene with the pot temperature maintained below 30° C. After stirring for about one hr. at room temperature, the reaction mixture was washed twice with water and dried over sodium sulfate. The dried filtered solution was concentrated to a volume of about 100 ml., aniline (100 ml.) was added, the solution refluxed for 3.0 hrs. and then concentrated. The residue was partitioned between chloroform and dilute sodium hydroxide. The dried chloroform layer was concentrated and the residue distilled at 120° C./0.1 mm. to give 4.0 g. of product.

reactant | sodamide | 0.2 mole | [NH2-].[Na+]
reactant | 1,2-diethyl-4-pyrazolidinol | 0.2 mole | C(C)N1N(CC(C1)O)CC | C7H16N2O
reactant | p-toluenesulfonyl chloride | 0.2 mole | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Anilino-1,2-diethylpyrazolidine | N(C1=CC=CC=C1)C1CN(N(C1)CC)CC | C13H21N3
